US06956052B2
8-[(2-chlorobenzoyl)amino]-1-(4-{(1E)-3-[(2-methoxyethyl)amino]-3-oxoprop-1-enyl}phenyl)-4,5-dihydro-1H-benzo[g]indazole-3-carboxamide
To a 4 mL peptide flask was added 100 mg of the resin. A solution of HBTU (127 mg, 0.336 mmol), 1-hydroxybenzotriazole (52 mg, 0.38 mmol), triethylamine (34 mg, 0.34 mmol), and (2E)-3-(4-{3-(aminocarbonyl)-8-[(2-chlorobenzoyl)amino]-4,5-dihydro-1H-benzo[g]indazol-1-yl}phenyl)prop-2-enoic acid (172 mg, 0.335 mmol) in 2mL of N,N-dimethylformamide was added to the resin. The peptide flask was agitated on an orbital shaker for 16 hrs, after which the solution was drained and the resin was washed with DMF, dichloromethane, and diethyl ether. The resin was dried under vacuum.

reactant | HBTU | 0.336 mmol, 127 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-hydroxybenzotriazole | 0.38 mmol, 52 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 0.34 mmol, 34 mg | C(C)N(CC)CC | C6H15N
reactant | (2E)-3-(4-{3-(aminocarbonyl)-8-[(2-chlorobenzoyl)amino]-4,5-dihydro-1H-benzo[g]indazol-1-yl}phenyl)prop-2-enoic acid | 0.335 mmol, 172 mg | NC(=O)C1=NN(C=2C3=C(CCC12)C=CC(=C3)NC(C3=C(C=CC=C3)Cl)=O)C3=CC=C(C=C3)/C=C/C(=O)O | C28H21ClN4O4
solvent | N,N-dimethylformamide | 2mL | CN(C=O)C | C3H7NO
product | 8-[(2-chlorobenzoyl)amino]-1-(4-{(1E)-3-[(2-methoxyethyl)amino]-3-oxoprop-1-enyl}phenyl)-4,5-dihydro-1H-benzo[g]indazole-3-carboxamide | ClC1=C(C(=O)NC2=CC3=C(CCC=4C(=NN(C34)C3=CC=C(C=C3)\C=C\C(=O)NCCOC)C(=O)N)C=C2)C=CC=C1 | C31H28ClN5O4
